US08859591B2
A mixture of 4-(trifluoromethyl)-1H-imidazole (2000 mg, 14.70 mmol), 2-chloro-5-nitropyridine (2330 mg, 14.70 mmol), and potassium carbonate (4060 mg, 29.4 mmol) in acetonitrile (14.7 mL) was heated at 85° C. overnight. The reaction was diluted with water and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated. The crude residue was dissolved in ethanol (20 mL) and ethyl acetate (15 mL). 10 wt % Palladium on carbon (500 mg) was added to the solution. The mixture was pressurized to 50 psi hydrogen and was shaken for 5 hours. The reaction was filtered through celite, rinsing with methanol. The filtrate was concentrated to give 6-(4-(trifluoromethyl)-1H-imidazol-1-yl)pyridin-3-amine. 1H NMR (400 MHz, CDCl3, δ): 8.15 (s, 1H), 7.93 (d, J=2.73 Hz, 1H), 7.85 (s, 1H), 7.20-7.15 (m, 1H), 7.14-7.09 (m, 1H), 3.13-2.30 (m, 2H). MS (M+HCO2−): 273.0.

reactant | 4-(trifluoromethyl)-1H-imidazole | 14.70 mmol, 2000 mg | FC(C=1N=CNC1)(F)F | C4H3F3N2
reactant | 2-chloro-5-nitropyridine | 14.70 mmol, 2330 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 29.4 mmol, 4060 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 14.7 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 6-(4-(trifluoromethyl)-1H-imidazol-1-yl)pyridin-3-amine | FC(C=1N=CN(C1)C1=CC=C(C=N1)N)(F)F | C9H7F3N4
